US05449686
16b. 4-(3-Cyclopentyloxy-4-methoxyphenyl)-4-(fluoromethyl)cyclohexan-1-one
4-(3-Cyclopentyloxy-4-methoxyphenyl)-4-(fluoromethyl)cyclohexan-1-one diethyl ketal (0.35 g, 0.95 mmol) in ethyl acetate (2 mL) was treated with 1N hydrochloric acid (2 mL) and the mixture was stirred vigorously and gently heated for 10 min. The mixture was extracted with ethyl acetate, the organic extract was washed with 5% aqueous sodium carbonate, dried (magnesium sulfate) and the solvent was removed in vacuo. Purification by flash chromatography, eluting with 25% ethyl acetate/hexanes, followed by trituration with ether/hexanes, provided a white solid (0.075 g, 24%): m.p. 72°-74° C.

reactant | 4-(3-Cyclopentyloxy-4-methoxyphenyl)-4-(fluoromethyl)cyclohexan-1-one diethyl ketal | 0.95 mmol, 0.35 g | C(C)OC1(CCC(CC1)(CF)C1=CC(=C(C=C1)OC)OC1CCCC1)OCC | C23H35FO4
reactant | hydrochloric acid | 1N, 2 mL | Cl | ClH
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 4-(3-Cyclopentyloxy-4-methoxyphenyl)-4-(fluoromethyl)cyclohexan-1-one | 0.075 g, 24% | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)CF | C19H25FO3
